US07273879B2
Into 2 ml of N,N-dimethylformamide were dissolved 200 mg of 5-chloro-3-(4-methoxybenzyl)thio-1,2,4-thiadiazole and 87 mg of benzyl alcohol, 35 mg of sodium hydride (60% in oil) was added thereto under ice-cooling, and the reaction mixture was stirred for 1 hour under ice-cooling and for 4 hours at room temperature. The reaction mixture was added to saturated sodium chloride aqueous solution, and extracted with t-butyl methyl ether. The organic layer was concentrated, and the residue obtained was subjected to silica gel column chromatography to give 165 mg of 5-benzyloxy-3-(4-methoxybenzyl)thio-1,2,4-thiadiazole (hereinafter, referred to as the present compound (33)).

reactant | 5-chloro-3-(4-methoxybenzyl)thio-1,2,4-thiadiazole | 200 mg | ClC1=NC(=NS1)SCC1=CC=C(C=C1)OC | C10H9ClN2OS2
reactant | benzyl alcohol | 87 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 35 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-benzyloxy-3-(4-methoxybenzyl)thio-1,2,4-thiadiazole | 165 mg | C(C1=CC=CC=C1)OC1=NC(=NS1)SCC1=CC=C(C=C1)OC | C17H16N2O2S2
